US05196610
A mixture of 1,1,1,3,3-pentafluoro-2-(4-ethoxyphenyl)-3-chloropropan-2-ol (28 g), thionyl chloride (45 cm3) and pyridine (3 cm3) was heated at the reflux temperature for 4 hours, diluted with toluene and the volatile components removed by evaporation under reduced pressure. The residual oil was dissolved in chloroform, washed with water and dried over anhydrous magnesium sulphate. Removal of the solvent by evaporation under reduced pressure yielded 1,1,1,3,3-pentafluoro-2,3-dichloro-2-(4-ethoxyphenyl)propane (29.5 g) as a residual oil.

reactant | 1,1,1,3,3-pentafluoro-2-(4-ethoxyphenyl)-3-chloropropan-2-ol | 28 g | FC(C(C(Cl)(F)F)(O)C1=CC=C(C=C1)OCC)(F)F | C11H10ClF5O2
reactant | thionyl chloride | 45 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 3 cm3 | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,1,1,3,3-pentafluoro-2,3-dichloro-2-(4-ethoxyphenyl)propane | 29.5 g | FC(C(C(Cl)(F)F)(C1=CC=C(C=C1)OCC)Cl)(F)F | C11H9Cl2F5O
